### PR TITLE
Refactor some uses of selectors

### PR DESCRIPTION
**Pull request by wkolowski**

### CODE REVIEW

File: theories/VLSM/Core/ELMO/ELMO.v [hunk 1]
```diff
@@ -1149,9 +1149,9 @@ Lemma ELMOComponent_sizeState_of_ram_trace_output
 Proof.
   induction Htr; [by inversion 1 |].
   intros item Hitem m Hm.
-  apply elem_of_cons in Hitem as [-> | Hitem]; cbn in Hm;
-    destruct Ht as [(_ & _ & Hv) Ht]; inversion Hv; subst; inversion Ht; subst; [done | ..].
-  all: by etransitivity; [| eapply IHHtr]; [rewrite addObservation_size; lia | ..].
+  by apply elem_of_cons in Hitem as [-> | Hitem]; cbn in Hm;
```
Comment (traiansf) [inline theories/VLSM/Core/ELMO/ELMO.v:1152]: This sequence seems a bit too much. Could it be extracted as a lemma or something?

File: theories/VLSM/Core/ELMO/ELMO.v [hunk 2]
```diff
@@ -1149,9 +1149,11 @@ Lemma ELMOComponent_sizeState_of_ram_trace_output
...
   induction Htr; [by inversion 1 |].
   intros item Hitem m Hm.
-  apply elem_of_cons in Hitem as [-> | Hitem]; cbn in Hm;
-    destruct Ht as [(_ & _ & Hv) Ht]; inversion Hv; subst; inversion Ht; subst; [done | ..].
-  all: by etransitivity; [| eapply IHHtr]; [rewrite addObservation_size; lia | ..].
+  destruct Ht as [(_ & _ & Hv) Ht].
+  apply elem_of_cons in Hitem as [-> | Hitem]; cbn in Hm.
+  - by inversion Hv; subst; inversion Ht.
+  - transitivity (sizeState s); [| by eapply IHHtr].
+    by eapply Nat.lt_le_incl, ELMOComponent_valid_transition_size; cbn in Hv, Ht.
```
Comment (traiansf) [inline theories/VLSM/Core/ELMO/ELMO.v:1156]: Why do you need `cbn` at the end?

**Review by traiansf — APPROVED** [review]
